US09403810B2
Step 1: Methyl 2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-hydroxybutanoate
To a solution of 2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-hydroxybutanoic acid (5 g, 14.65 mmol) in MeOH (50 mL) was added H2SO4 (0.781 mL, 14.65 mmol). The reaction mixture was stirred at reflux overnight. The resulting mixture was cooled to room temperature and the solvent removed under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography using a gradient of 0-100% EtOAc in iso-hexane afforded the title compound;

reactant | 2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-hydroxybutanoic acid | 14.65 mmol, 5 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(C(=O)O)C(C)O | C19H19NO5
reactant | H2SO4 | 14.65 mmol, 0.781 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 50 mL | CO | CH4O
product | Methyl 2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-hydroxybutanoate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(C(=O)OC)C(C)O | C20H21NO5
